US03994941
A stirred mixture of 8-chloro-6-phenyl-1-(2-hydroxyethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine (0.677 g., 0.002 mole), phthalimide (0.324 g., 0.0022 mole), triphenylphosphine (0.576 g., 0.0022 mole) and dry tetrahydrofuran (20 ml.), under nitrogen, is treated with diethyl azodicarboxylate (0.383 g., 0.0022 mole) and stirred at ambient temperature (22°-25° C.) for 24 hours. The mixture is concentrated in vacuo and the residue chromatographed on silica gel (50 g.) with 3% methanol-97% chloroform. The product thus obtained is crystallized from ethyl acetate to give 8-chloro-1-(2-phthalimidoethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine ethyl acetate solvate of melting point 223.5°-226° C.

reactant | 8-chloro-6-phenyl-1-(2-hydroxyethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.002 mole, 0.677 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCO)C3=CC=CC=C3)C1 | C18H15ClN4O
reactant | phthalimide | 0.0022 mole, 0.324 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.0022 mole, 0.576 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0022 mole, 0.383 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-chloro-1-(2-phthalimidoethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine ethyl acetate | C(C)OC(C)=O.ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | InChI=1S/C26H18ClN5O2.C4H8O2/c27-17-10-11-21-20(14-17)24(16-6-2-1-3-7-16)28-15-23-30-29-22(32(21)23)12-13-31-25(33)18-8-4-5-9-19(18)26(31)34;1-3-6-4(2)5/h1-11,14H,12-13,15H2;3H2,1-2H3
